US05705516
To a stirred solution of acetone oxime (0.365 g) in dry tetrahydrofuran (20 cm3) at 0° C. under nitrogen was added n-butyl lithium (4.6 cm3 of a 2.5M solution in hexanes) resulting in formation of a pale yellow precipitate. After stirring at 0° C. for 30 minutes, carbon disulfide (0.3 cm3) was added producing a bright orange solution. After a further 10 minutes, 3M HCl (20 cm3) was added and the reaction was heated under reflux for 3 hours and then cooled. The layers were separated and the aqueous layer was extracted with chloroform. The combined organic layers were dried (MgSO4), filtered and evaporated under reduced pressure to give a brown oil. The oil was then taken up in acetone (11 cm3) and 1-bromo-4,4-difluorobut-3-ene (0.77 g) and potassium carbonate (0.87 g) were added and the reaction heated under reflux for 3.5 hours and then cooled. The mixture was then poured into ethyl acetate and 2M HCl and the layers separated. The aqueous layer was extracted with ethyl acetate and the combined organic phases were dried (MgSO4), filtered and evaporated under reduced pressure to give a brown oil. Purification by column chromatography on silica gel using 1:9 ethyl acetate:hexane as eluant gave 2-(4,4-difluorobut-3-enylthio)-3-methylisoxazole (0.105 g). M+ =205; 1H NMR: δ 2.30(3H,s); 2.40(2H,m); 3.05(2H,t); 4.25(1H,m); 6.00(1H,s); (oil).

reactant | acetone oxime | 0.365 g | CC(C)=NO | C3H7NO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | HCl | 3M, 20 cm3 | Cl | ClH
reactant | 1-bromo-4,4-difluorobut-3-ene | 0.77 g | BrCCC=C(F)F | C4H5BrF2
reactant | potassium carbonate | 0.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 2M | Cl | ClH
reactant | carbon disulfide | 0.3 cm3 | C(=S)=S | CS2
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | acetone | 11 cm3 | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4,4-difluorobut-3-enylthio)-3-methylisoxazole | 0.105 g | FC(=CCCSN1OC=CC1C)F | C8H11F2NOS
